US04920120
7-(3-Amino-1-pyrrolidinyl)-6,8-difluoro-1-(2,4-difluorophenyl)-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid
A solution of 0.40 g (1.00 mmol) of ethyl 6,7,8-trifluoro-1-(2,4-difluorophenyl)-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid, 0.22 g (1.18 mmol) of 3-t-butoxycarbonylaminopyrrolidine, 0.30 g (3.00 mmol) of triethylamine, and 15 ml of acetonitrile was refluxed for 18 hours. The mixture was cooled and concentrated. The residue was dissolved in 10 ml of 6N hydrochloric acid, refluxed for three hours, and cooled to room temperature. The solids were filtered, washed with water and ether, and suspended in water. The suspension was made basic (pH 12) and filtered through a fiberglass pad, and the filtrate was neutralized to pH 6.7. The solids were filtered and washed with water and ether to give 0.38 g of the title compound, mp 230°-232° C.

reactant | ethyl 6,7,8-trifluoro-1-(2,4-difluorophenyl)-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid | 1.00 mmol, 0.40 g | C(C)C=1N(C2=C(C(=C(C(=C2C(C1C(=O)O)=O)C)F)F)F)C1=C(C=C(C=C1)F)F | C19H12F5NO3
reactant | 3-t-butoxycarbonylaminopyrrolidine | 1.18 mmol, 0.22 g | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | triethylamine | 3.00 mmol, 0.30 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 7-(3-Amino-1-pyrrolidinyl)-6,8-difluoro-1-(2,4-difluorophenyl)-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid | 0.38 g | NC1CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1F)C1=C(C=C(C=C1)F)F)C(=O)O)=O)C)F | C21H17F4N3O3
